US04556671
Preparation of 3-Acetylamino-1-(p-chlorophenyl)-2-pyrazoline
3-Amino-1-(p-chlorophenyl)-2-pyrazoline (5 g) was added to acetic anhydride (4.0 ml) at room temperature. On stirring with a glass rod the mixture became warm and afforded a dark red liquid. The mixture was taken up in dichloromethane (100 ml) washed (water, 100 ml; saturated sodium bicarbonate, 100 ml; water, 100 ml), dried over sodium sulphate and the solvent removed in vacuo to afford the title compound (m.p. 171°-173°).

reactant | 3-Amino-1-(p-chlorophenyl)-2-pyrazoline | 5 g | NC1=NN(CC1)C1=CC=C(C=C1)Cl | C9H10ClN3
reactant | acetic anhydride | 4.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-Acetylamino-1-(p-chlorophenyl)-2-pyrazoline | C(C)(=O)NC1=NN(CC1)C1=CC=C(C=C1)Cl | C11H12ClN3O
